 **** ptat voltage generation circuit *****


.lib "/opt/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt"


.global vdd gnd

.temp 27


*** vcvs definition

e1    net2    gnd    ra1    qp1    gain=1000

xmp1    q1    net2       vdd    vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4

xmp2    q2        net2    vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4

    

*** bjt definition

xqp1    gnd    gnd    qp1        sky130_fd_pr__pnp_05v5_W3p40L3p40    m=1

xqp2    gnd     gnd     qp2          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=8


*** high-poly resistance definition

xra1    ra1     na1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41      l=7.8

xra2    na1     na2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41    l=7.8

xra3    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41    l=7.8

xra4    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41    l=7.8


*** voltage sources for current measurement

vid1    q1    qp1    dc    0

vid2    q2    ra1    dc    0


*** supply voltage

vsup    vdd    gnd    dc     2

.dc    temp    -40    125    5


*** control statement

.control

run

plot v(qp1) v(ra1) v(qp2) v(net2)

plot vid1#branch vid2#branch

.endc

.end 
